US09260425B2
Following the Stille coupling procedure of Example 299, 5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-3-(trimethylstannyl)-1H-pyrazolo[3,4-c]pyridine and 2,4-dichloropyrimidine were reacted. The product was purified via silica gel chromatography using a gradient of ethyl acetate in heptane to afford 60 mg (50%) of 3-(2-Chloropyrimidin-4-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine. ESI MS m/z 439.2 (M+1).

reactant | 5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-3-(trimethylstannyl)-1H-pyrazolo[3,4-c]pyridine | N1=CC(=CC=C1)C=1C=C2C(=CN1)N(N=C2[Sn](C)(C)C)COCC[Si](C)(C)C
reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
product | 3-(2-Chloropyrimidin-4-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | 60 mg, 50% | ClC1=NC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C21H23ClN6OSi
